US06121308
e. 2-[2-(4-cyanophenyl)-ethyl]-6-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzoxazole
Prepared analogously to Example 1d from 2-[2-(4-cyanophenyl)-ethyl]-6-[N-quinoline-8-sulphonylamino]-benzoxazole, methyl bromoacetate and potassium carbonate in acetone.

reactant | 2-[2-(4-cyanophenyl)-ethyl]-6-[N-quinoline-8-sulphonylamino]-benzoxazole | C(#N)C1=CC=C(C=C1)CCC=1OC2=C(N1)C=CC(=C2)NS(=O)(=O)C=2C=CC=C1C=CC=NC21 | C25H18N4O3S
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[2-(4-cyanophenyl)-ethyl]-6-[N-(methoxycarbonylmethyl)-quinoline-8-sulphonylamino]-benzoxazole | C(#N)C1=CC=C(C=C1)CCC=1OC2=C(N1)C=CC(=C2)N(CC(=O)OC)S(=O)(=O)C=2C=CC=C1C=CC=NC21 | C28H22N4O5S
